US05599829
3-(2-Chlorophenyl)-2-ethylsulfanyl-3,5-dihydro-imidazol-4-one
A mixture of 2-[3-(2-chlorophenyl)-thioureido]-acetamide (12.2 g), ethyl iodide (15.6 g), and ethanol (200 mL) was heated at reflux for 5 hours. The solvent was evaporated. The residue was dissolved in ethyl acetate (400 mL) and water (300 mL). The organic phase was washed with water (2×300 mL). The organic phase was then extracted with 2N HCl (2×500 mL). The acid extract was neutralized with solid sodium bicarbonate and extracted with ethyl acetate. The organic phase was washed with water, dried over anhydrous MgSO4 then evaporated to dryness. The residue was dissolved in ethanol and the solution was saturated with hydrogen chloride. The solvent was evaporated and the residue was crystallized from ethyl acetate to give the hydrochloride salt of the title compound (8.4 g) as an off-white solid, m.p. 149°-150° C. (dec.). Anal. Calcd. for. C11H11Cl N2O S. HCl: C, 45.37; H, 4.15; N, 9.62. Found: C, 44.97; H, 4.06; N, 9.51. Mass spectrum (EI, M.+) m/z 254/256. 1H-NMR (DMSO-d6 ; 400 MHz) δ7.69 (m, 1H), 7.50-7.58 (m, 3H), 4.45 (q, 2H), 3.11-3.17 (m, 2H), and 1.27 ppm (t, 3H).

reactant | 2-[3-(2-chlorophenyl)-thioureido]-acetamide | 12.2 g | ClC1=C(C=CC=C1)NC(NCC(=O)N)=S | C9H10ClN3OS
reactant | ethyl iodide | 15.6 g | C(C)I | C2H5I
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 3-(2-Chlorophenyl)-2-ethylsulfanyl-3,5-dihydro-imidazol-4-one | 8.4 g | ClC1=C(C=CC=C1)N1C(=NCC1=O)SCC | C11H11ClN2OS
